US08378104B2
3-{7-Amino-4-[1-(trans-4-hydroxycyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-2-yl}thieno[2,3-c]pyridin-5-ol
A solution of 4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]-2-chlorofuro[2,3-c]pyridin-7-amine (232 mg, 0.520 mmol), 5-fluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-thieno[2,3-c]pyridine (235 mg, 0.530 mmol), and Pd(PPh3)4 (60.1 mg, 0.0520 mmol) in 1,4-dioxane (2.0 mL) and aqueous 1.0 M sodium carbonate solution (2.0 mL, 2.0 mmol) was heated to 120° C. in a microwave reactor for 60 min. Water (10 mL) was added, and the mixture was extracted with EtOAc (3×10 mL). The combined organic extracts were washed with water (2×10 mL) and brine (10 mL), dried over MgSO4, filtered, and concentrated. The residue was transferred to a sealable vial. To the vial was added sodium methoxide (148 mg, 2.60 mmol) and methanol (5.0 mL, 120 mmol), and the reaction mixture was heated in a microwave at 150° C. for 2 h. Water (10 mL) was added, and the mixture was extracted with EtOAc (3×15 mL). The organic extracts were washed with water (2×10 mL) and brine (10 mL), dried over MgSO4, filtered, and concentrated. The residue was transferred to a vial, to which was added pyridine hydrochloride (613 mg, 5.20 mmol) and water (10.0 mL), and the mixture was heated at 120° C. for 3 h followed by heating in a microwave at 150° C. for 2 h. Purification of the residue by MDPS afforded 25.6 mg (11%) of the title compound as a yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 8.70 (s, 1H), 8.66 (s, 1H), 8.25 (s, 1H), 7.99 (s, 1H), 7.94 (s, 1H), 7.58 (s, 1H), 7.56 (s, 1H), 6.36 (brs, 2H), 4.70 (br s, 1H), 4.19 (tt, J=11.4, 4.0 Hz, 1H), 3.59-3.45 (m, 1H), 2.12-2.04 (m, 2H), 2.02-1.82 (m, 4H), 1.45-1.33 (m, 2H), 1H overlapping with water peak; MS (ESI): 448.31 [M+H]+; HPLC: tR=2.37 min (ZQ3: polar—5 min).

reactant | 4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]-2-chlorofuro[2,3-c]pyridin-7-amine | 0.520 mmol, 232 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2)Cl | C22H31ClN4O2Si
reactant | 5-fluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-thieno[2,3-c]pyridine | 0.530 mmol, 235 mg | FC=1C=C2C(=CN1)SC=C2B2OC(C(O2)(C)C)(C)C | C13H15BFNO2S
reactant | sodium carbonate | 2.0 mmol, 1.0 M, 2.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium methoxide | 2.60 mmol, 148 mg | C[O-].[Na+]
reactant | methanol | 120 mmol, 5.0 mL | CO | CH4O
reactant | pyridine hydrochloride | 5.20 mmol, 613 mg | Cl.N1=CC=CC=C1
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.0520 mmol, 60.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 10.0 mL | O | H2O
solvent | Water | 10 mL | O | H2O
solvent | Water | 10 mL | O | H2O
product | 3-{7-Amino-4-[1-(trans-4-hydroxycyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-2-yl}thieno[2,3-c]pyridin-5-ol | 25.6 mg, 11% | NC=1N=CC(=C2C1OC(=C2)C2=CSC1=CN=C(C=C12)O)C=1C=NN(C1)[C@@H]1CC[C@H](CC1)O | C23H21N5O3S
